US04105767
To 0.300 g. (1 mmole) of 2-methoxycarbonylamino-6-(pyridylthio)-imidazo [1,2-a] pyridine in 50 ml. of methylene chloride is added 0.189 g. (1.1 mmoles) of m-chloroperbenzoic acid. The reaction is stirred at room temperature overnight, and the resultant solution is washed 3 times with saturated sodium bicarbonate solution. The methylene chloride layer is dried and evaporated to dryness in vacuo affording 2-methoxycarbonylamino-6-(2-pyridylsulfinyl) imidazo [1,2-a] pyridine, m.p. 231°-235° C.

reactant | 2-methoxycarbonylamino-6-(pyridylthio)-imidazo [1,2-a] pyridine | 1 mmole | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=NC=CC=C2)C1 | C14H12N4O2S
reactant | m-chloroperbenzoic acid | 1.1 mmoles | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methoxycarbonylamino-6-(2-pyridylsulfinyl) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)S(=O)C2=NC=CC=C2)C1 | C14H12N4O3S
